US07674901B2
In other aspects the invention provides a process for the preparation of N-(5-nitro-2-methylphenyl)-4-(3-pyridinyl)-2-pyrimidineamine comprising: (a) reacting 2-methyl-5-nitroaniline with cyanamide in the presence of hydrochloric acid to obtain 1-(2-methyl-5-nitrophenyl)guanidine hydrochloride; (b) converting 1-(2-methyl-5-nitrophenyl)guanidine hydrochloride to 1-(2-methyl-5-nitrophenyl)guanidine nitrate; (c) condensing 3-acetylpyridine with N,N-dimethylformamide dimethyl acetal to obtain 3-(dimethylamino)-1-(3-pyridinyl)-prop-2-en-1-one; and (d) reacting 3-(dimethylamino)-1-(3-pyridinyl)-prop-2-en-1-one with 1-(2-methyl-5-nitrophenyl)guanidine nitrate to obtain N-(5-nitro-2-methylphenyl)-4-(3-pyridinyl)-2-pyrimidineamine.

reactant | N-(5-nitro-2-methylphenyl)-4-(3-pyridinyl)-2-pyrimidineamine | [N+](=O)([O-])C=1C=CC(=C(C1)NC1=NC=CC(=N1)C=1C=NC=CC1)C | C16H13N5O2
reactant | 2-methyl-5-nitroaniline | CC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | cyanamide | N#CN | CH2N2
reactant | hydrochloric acid | Cl | ClH
product | 1-(2-methyl-5-nitrophenyl)guanidine hydrochloride | Cl.CC1=C(C=C(C=C1)[N+](=O)[O-])NC(=N)N | InChI=1S/C8H10N4O2.ClH/c1-5-2-3-6(12(13)14)4-7(5)11-8(9)10;/h2-4H,1H3,(H4,9,10,11);1H
